US08017635B2
Step B Synthesis of 3,5-dichloro-4-(2-hydroxyethoxy)phenol as an intermediate
A mixture of 10.3 grams (0.033 mole) of 2-(2,6-dichloro-4-(phenylmethoxy)phenoxy)ethan-1-ol and 0.4 gram (catalyst) of 10% palladium on carbon in 100 mL of ethanol was subjected to hydrogenation conditions (40 PSI) using a Parr hydrogenator. After the theoretical uptake of hydrogen, the reaction mixture was filtered and concentrated under reduced pressure, yielding 7.0 grams of the subject compound as a residue. The NMR spectrum was consistent with the proposed structure.

reactant | 2-(2,6-dichloro-4-(phenylmethoxy)phenoxy)ethan-1-ol | 0.033 mole, 10.3 grams | ClC1=C(OCCO)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C15H14Cl2O3
catalyst | palladium on carbon | 0.4 gram | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3,5-dichloro-4-(2-hydroxyethoxy)phenol | 7.0 grams | ClC=1C=C(C=C(C1OCCO)Cl)O | C8H8Cl2O3
